.title tb001-ga144-test-bringup

* TB001 functional bring-up hypothesis: a common 1.8 V source keeps the page-1 GA144 test-master side alive while page-4/page-5 control releases three switched UUT-facing 1.8 V domains for a socketed GA144 under test.
* assumption: The page-1 master side is represented as an always-on 1.8 V branch split into GA144 test-master, SRAM, and SPI flash sub-loads.
* assumption: The page-2 UUT side is represented as three switched branches: V1P8-Core/UUT, V1P8-IO/UUT, and V1P8-Analog/UUT.
* assumption: FDS6574A is treated as the stronger N-channel pass family that feeds the UUT branches from the common 1.8 V distribution.
* assumption: DMN5L06DMK-AB is treated as the smaller N-channel clamp family that holds branch gates low until control release.
* assumption: A 3.3 V control domain is available to pull the branch gates high enough to pass a 1.8 V rail through an N-channel device abstraction.
* assumption: This case follows the candidate TB001 operating sequence: master-side rail first, UUT held while control settles, UUT rails enabled, then reset effectively released after settlement.
* assumption: The delayed DISABLE pulse stands in for the combined effect of reset assertion, boot-mode selection, and later UUT branch enable rather than one exact named schematic net.
* assumption: The current run should be read as a No-Boot-or-held-in-reset style startup path; SPI-enabled behavior remains a later comparison mode rather than something digitally simulated here.
* assumption: RESET_HOLD is only a timing proxy for deferred UUT activity and not a proven reconstruction of the exact GA144 RESET- wiring.
* assumption: For this pass, about 10% modeling accuracy is acceptable if the result preserves the real operating window that matters for GA144 test use.
* assumption: GA144 operating fitness is judged primarily against its recommended VDD window of 1.62 V to 2.0 V rather than against an exact 1.800 V target.
* assumption: The test-master side should remain substantially stable while the UUT branches are enabled.
* assumption: This case is for power-up fitness and intended test usage only; it does not simulate full GA144 logic or protocol behavior.

VMAIN1P8 VIN_SRC 0 DC 1.8
VGATEDRV VDRV 0 DC 3.3
VDIS DISABLE 0 PULSE(3.3 0 1m 20u 20u 20m 40m)
RSRC VIN_SRC VIN_MAIN 0.05
CBULK VIN_MAIN 0 22u
RMASTERPATH VIN_MAIN VMASTER 0.04
CMASTERC VMASTER 0 4.7u
RMASTERBLEED VMASTER 0 800
RU2PATH VMASTER VU2 0.03
CU2C VU2 0 3u
RU2LOAD VU2 0 120
RU1PATH VMASTER VU1 0.04
CU1C VU1 0 1u
RU1LOAD VU1 0 500
RU3PATH VMASTER VU3 0.05
CU3C VU3 0 0.47u
RU3LOAD VU3 0 1200
RRSTCHG VMASTER RESET_HOLD 180k
CRSTC RESET_HOLD 0 0.1u
RRSTBLEED RESET_HOLD 0 1Meg
RGPULLCORE VDRV GCORE 47k
MGCLAMPCORE GCORE DISABLE 0 0 DMN5L06DMK_CLAMP
MPASSCORE VIN_MAIN GCORE VCORE 0 FDS6574A_SW
CCOREC VCORE 0 22u
RCORELOAD VCORE 0 36
RGPULLIO VDRV GIO 47k
MGCLAMPIO GIO DISABLE 0 0 DMN5L06DMK_CLAMP
MPASSIO VIN_MAIN GIO VIO 0 FDS6574A_SW
CIOC VIO 0 12u
RIOLOAD VIO 0 90
RGPULLAN VDRV GAN 47k
MGCLAMPAN GAN DISABLE 0 0 DMN5L06DMK_CLAMP
MPASSAN VIN_MAIN GAN VAN 0 FDS6574A_SW
CANC VAN 0 15u
RANLOAD VAN 0 120

.model FDS6574A_SW NMOS(VTO=1.0 KP=4 RS=0.003 RD=0.003)
.model DMN5L06DMK_CLAMP NMOS(VTO=0.75 KP=0.05 RS=0.2 RD=0.2)

.control
set filetype=ascii
tran 20u 12m
print v(VIN_MAIN) v(VMASTER) v(VU2) v(VU1) v(VU3) v(RESET_HOLD) v(GCORE) v(GIO) v(GAN) v(VCORE) v(VIO) v(VAN) v(DISABLE)
wrdata /home/cartheur/ame/aiventure/aiventure-github/ai-forth/dataplex/toolbox/enrichment/examples/pcb/cases/tb001-ga144-test-bringup/outputs/sim.dat v(VIN_MAIN) v(VMASTER) v(VU2) v(VU1) v(VU3) v(RESET_HOLD) v(GCORE) v(GIO) v(GAN) v(VCORE) v(VIO) v(VAN) v(DISABLE)
quit
.endc

.end
